US07608563B2
200 mg (0.722 mmol) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol was mixed with toluene (3 mL) and the mixture was ice-cooled. To the mixture were added 60 L (0.742 mmol) of pyridine, then 0.67 mL (0.724 mmol) of 1.08 mol/L phosgene-toluene solution under nitrogen atmosphere with stirring, and the resulting mixture was stirred at room temperature for 15 minutes. The reaction mixture was ice-cooled, 120 L (1.48 mmol) of pyridine, then 70.4 mg (0.722 mmol) of N,O-dimethylhydroxylamine hydrochloride were added to the mixture, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layers were combined, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was purified by silica gel column chromatography (Wako gel C-100, hexane: ethyl acetate, gradient) to obtain 100 mg (0.275 mmol, Yield: 38.1%) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinyl methoxy(methyl)carbamate (Compound No. 3564).

reactant | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol | 0.722 mmol, 200 mg | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1C)C1CC1)O | C14H13ClN2O2
reactant | pyridine | 0.742 mmol, 60 L | N1=CC=CC=C1 | C5H5N
reactant | phosgene toluene | 0.724 mmol, 1.08 mol/L, 0.67 mL | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
reactant | pyridine | 1.48 mmol, 120 L | N1=CC=CC=C1 | C5H5N
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.722 mmol, 70.4 mg | Cl.CNOC
solvent | water | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinyl methoxy(methyl)carbamate | 0.275 mmol, 100 mg, Yield: 38.1% | CON(C(OC1=C(N=NC(=C1)Cl)OC1=C(C=CC=C1C)C1CC1)=O)C | C17H18ClN3O4
